US07365095B2
Treatment of (2R)-2-(5-fluoro-2′-phenyl-3-(prop-1-enyl)biphenyl-2-yloxy)but-3-enyl 4-methylbenzenesulfonate (1.8 g, 3.40 mmol) with benzylidene-bis(tricyclohexylphosphine)-dichlororuthenium (1.0 g, 1.22 mmol) in 1,2-dichloroethane (100 mL) according to the procedure described for Example 69, Step 7 provided 1.36 g (82%) of ((2R)-8-(biphenyl-2-yl)-6-fluoro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate as a brown solid. MS (ESI) m/z 504.1 ([M+NH4]+).

reactant | (2R)-2-(5-fluoro-2′-phenyl-3-(prop-1-enyl)biphenyl-2-yloxy)but-3-enyl 4-methylbenzenesulfonate | 3.40 mmol, 1.8 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H](C=C)OC1=C(C=C(C=C1C=CC)F)C1=C(C=CC=C1)C1=CC=CC=C1 | C32H29FO4S
reactant | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
catalyst | benzylidene-bis(tricyclohexylphosphine) dichlororuthenium | 1.22 mmol, 1.0 g | C(C1=CC=CC=C1)(P(C1CCCCC1)(C1CCCCC1)C1CCCCC1)P(C1CCCCC1)(C1CCCCC1)C1CCCCC1.Cl[Ru]Cl
product | ((2R)-8-(biphenyl-2-yl)-6-fluoro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate | 1.36 g, 82% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=C(C=C2C=C1)F)C1=C(C=CC=C1)C1=CC=CC=C1 | C29H23FO4S
